* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00014672305523257686
Fd1_1 0 s1 V1 0.007336152761628844
Gr1_1_1 0 s1 x1_a1 0 4061572347.1574745
Gr2_re_1_1 0 s1 x2_re_a1 0 275432772.6907451
Gr2_im_1_1 0 s1 x2_im_a1 0 -1221594336.619189
Gr3_re_1_1 0 s1 x3_re_a1 0 16718192.664556213
Gr3_im_1_1 0 s1 x3_im_a1 0 83955541.20957677
Gr4_re_1_1 0 s1 x4_re_a1 0 1933212.4657597658
Gr4_im_1_1 0 s1 x4_im_a1 0 -57819639.89498967
Gr5_re_1_1 0 s1 x5_re_a1 0 44684399.74867983
Gr5_im_1_1 0 s1 x5_im_a1 0 44355406.407655366
Gr6_1_1 0 s1 x6_a1 0 -16301275.292615859
Gr7_re_1_1 0 s1 x7_re_a1 0 -31860996.76799349
Gr7_im_1_1 0 s1 x7_im_a1 0 -1324830844.239206
Gr8_re_1_1 0 s1 x8_re_a1 0 -1117908780.1678188
Gr8_im_1_1 0 s1 x8_im_a1 0 134340342.8043766
Gd1_2 0 s1 p2 0 0.0008821551040223348
Fd1_2 0 s1 V2 0.04410775520111674
Gr1_1_2 0 s1 x1_a2 0 28019891838.57377
Gr2_re_1_2 0 s1 x2_re_a2 0 -10982131561.830664
Gr2_im_1_2 0 s1 x2_im_a2 0 -2354538307.6524625
Gr3_re_1_2 0 s1 x3_re_a2 0 -1184785745.381937
Gr3_im_1_2 0 s1 x3_im_a2 0 2099800795.1070075
Gr4_re_1_2 0 s1 x4_re_a2 0 1013528406.291851
Gr4_im_1_2 0 s1 x4_im_a2 0 -649572265.3838394
Gr5_re_1_2 0 s1 x5_re_a2 0 2272962740.595932
Gr5_im_1_2 0 s1 x5_im_a2 0 2947432295.3162947
Gr6_1_2 0 s1 x6_a2 0 -57622193.22053524
Gr7_re_1_2 0 s1 x7_re_a2 0 1822972705.0475478
Gr7_im_1_2 0 s1 x7_im_a2 0 373408879.67482007
Gr8_re_1_2 0 s1 x8_re_a2 0 1692117557.9487936
Gr8_im_1_2 0 s1 x8_im_a2 0 -2280941398.1968985
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 9.605241644543874e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 7.996138480078661e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 14956369079.11556
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -14956369079.11556
Rp2_im_im_a1 0 x2_im_a1 7.996138480078661e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 4.630365455125041e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14343920974.974504
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14343920974.974504
Rp3_im_im_a1 0 x3_im_a1 4.630365455125041e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.106425197761371e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 13725283798.206688
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -13725283798.206688
Rp4_im_im_a1 0 x4_im_a1 8.106425197761371e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.124888362221512e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 11011088549.416105
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -11011088549.416105
Rp5_im_im_a1 0 x5_im_a1 2.124888362221512e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 5.374086373118643e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.6812536739807104e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 5667430572.250959
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -5667430572.250959
Rp7_im_im_a1 0 x7_im_a1 1.6812536739807104e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.7786423169775824e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 2264896285.598162
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -2264896285.598162
Rp8_im_im_a1 0 x8_im_a1 1.7786423169775824e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0008821551040223348
Fd2_1 0 s2 V1 0.04410775520111674
Gr1_2_1 0 s2 x1_a1 0 28019891838.573517
Gr2_re_2_1 0 s2 x2_re_a1 0 -10982131561.830673
Gr2_im_2_1 0 s2 x2_im_a1 0 -2354538307.6523657
Gr3_re_2_1 0 s2 x3_re_a1 0 -1184785745.381935
Gr3_im_2_1 0 s2 x3_im_a1 0 2099800795.107008
Gr4_re_2_1 0 s2 x4_re_a1 0 1013528406.2918507
Gr4_im_2_1 0 s2 x4_im_a1 0 -649572265.3838398
Gr5_re_2_1 0 s2 x5_re_a1 0 2272962740.595947
Gr5_im_2_1 0 s2 x5_im_a1 0 2947432295.3162937
Gr6_2_1 0 s2 x6_a1 0 -57622193.22053519
Gr7_re_2_1 0 s2 x7_re_a1 0 1822972705.047575
Gr7_im_2_1 0 s2 x7_im_a1 0 373408879.6748308
Gr8_re_2_1 0 s2 x8_re_a1 0 1692117557.948811
Gr8_im_2_1 0 s2 x8_im_a1 0 -2280941398.1969056
Gd2_2 0 s2 p2 0 0.00015516675758325135
Fd2_2 0 s2 V2 0.007758337879162569
Gr1_2_2 0 s2 x1_a2 0 4196576350.0901704
Gr2_re_2_2 0 s2 x2_re_a2 0 240899135.3261816
Gr2_im_2_2 0 s2 x2_im_a2 0 -1238072375.3996046
Gr3_re_2_2 0 s2 x3_re_a2 0 4115801.9790921025
Gr3_im_2_2 0 s2 x3_im_a2 0 101085260.49055898
Gr4_re_2_2 0 s2 x4_re_a2 0 12521506.157081932
Gr4_im_2_2 0 s2 x4_im_a2 0 -62364547.69500071
Gr5_re_2_2 0 s2 x5_re_a2 0 63392143.06408266
Gr5_im_2_2 0 s2 x5_im_a2 0 49996440.37103763
Gr6_2_2 0 s2 x6_a2 0 -17747352.040435657
Gr7_re_2_2 0 s2 x7_re_a2 0 5053487.612266294
Gr7_im_2_2 0 s2 x7_im_a2 0 -1353480755.7376747
Gr8_re_2_2 0 s2 x8_re_a2 0 -1164771799.0527976
Gr8_im_2_2 0 s2 x8_im_a2 0 96949683.46615635
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 9.605241644543874e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 7.996138480078661e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 14956369079.11556
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -14956369079.11556
Rp2_im_im_a2 0 x2_im_a2 7.996138480078661e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 4.630365455125041e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14343920974.974504
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14343920974.974504
Rp3_im_im_a2 0 x3_im_a2 4.630365455125041e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.106425197761371e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 13725283798.206688
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -13725283798.206688
Rp4_im_im_a2 0 x4_im_a2 8.106425197761371e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.124888362221512e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 11011088549.416105
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -11011088549.416105
Rp5_im_im_a2 0 x5_im_a2 2.124888362221512e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 5.374086373118643e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.6812536739807104e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 5667430572.250959
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -5667430572.250959
Rp7_im_im_a2 0 x7_im_a2 1.6812536739807104e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.7786423169775824e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 2264896285.598162
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -2264896285.598162
Rp8_im_im_a2 0 x8_im_a2 1.7786423169775824e-10
.ENDS s_equivalent
