* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.3575286077288924
Fd1_1 0 s1 V1 17.876430386444618
Gr1_1_1 0 s1 x1_a1 0 -4073186456903.832
Gr2_re_1_1 0 s1 x2_re_a1 0 191036359478.53244
Gr2_im_1_1 0 s1 x2_im_a1 0 58487258640.96956
Gr3_re_1_1 0 s1 x3_re_a1 0 -186490400420.82938
Gr3_im_1_1 0 s1 x3_im_a1 0 244366885336.06854
Gr4_re_1_1 0 s1 x4_re_a1 0 4448754028213.966
Gr4_im_1_1 0 s1 x4_im_a1 0 -29176497905894.78
Gr5_re_1_1 0 s1 x5_re_a1 0 -20186870791209.863
Gr5_im_1_1 0 s1 x5_im_a1 0 29135243380814.113
Gr6_1_1 0 s1 x6_a1 0 -175701556283496.03
Gr7_1_1 0 s1 x7_a1 0 183479945945775.16
Gr8_re_1_1 0 s1 x8_re_a1 0 4322400814289.3647
Gr8_im_1_1 0 s1 x8_im_a1 0 -20208651793145.883
Gr9_1_1 0 s1 x9_a1 0 21725928204762.656
Gr10_1_1 0 s1 x10_a1 0 4482883315836.835
Gr11_1_1 0 s1 x11_a1 0 -403642278297.48236
Gr12_1_1 0 s1 x12_a1 0 -7499394434561.383
Gr13_1_1 0 s1 x13_a1 0 25913628986.182087
Gr14_1_1 0 s1 x14_a1 0 -145743319761.31973
Gr15_1_1 0 s1 x15_a1 0 183224727056.98758
Gd1_2 0 s1 p2 0 0.26531987908395377
Fd1_2 0 s1 V2 13.265993954197688
Gr1_1_2 0 s1 x1_a2 0 -3157195841684.721
Gr2_re_1_2 0 s1 x2_re_a2 0 146067030997.86075
Gr2_im_1_2 0 s1 x2_im_a2 0 18207956232.747036
Gr3_re_1_2 0 s1 x3_re_a2 0 -140844436723.75165
Gr3_im_1_2 0 s1 x3_im_a2 0 178642177873.05698
Gr4_re_1_2 0 s1 x4_re_a2 0 3156197498032.0703
Gr4_im_1_2 0 s1 x4_im_a2 0 -22425844802917.508
Gr5_re_1_2 0 s1 x5_re_a2 0 -15383521969680.459
Gr5_im_1_2 0 s1 x5_im_a2 0 22536636870717.53
Gr6_1_2 0 s1 x6_a2 0 -134207506296933.88
Gr7_1_2 0 s1 x7_a2 0 141334923549266.28
Gr8_re_1_2 0 s1 x8_re_a2 0 3081780701602.683
Gr8_im_1_2 0 s1 x8_im_a2 0 -15576054392843.277
Gr9_1_2 0 s1 x9_a2 0 16192873967939.043
Gr10_1_2 0 s1 x10_a2 0 3182302992549.8315
Gr11_1_2 0 s1 x11_a2 0 -277480041582.83203
Gr12_1_2 0 s1 x12_a2 0 -5387890301001.469
Gr13_1_2 0 s1 x13_a2 0 17038217134.924362
Gr14_1_2 0 s1 x14_a2 0 -96523502097.2919
Gr15_1_2 0 s1 x15_a2 0 122083984728.36646
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.193227495424505e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.2551589361398013e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 19132877134.554558
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -19132877134.554558
Rp2_im_im_a1 0 x2_im_a1 1.2551589361398013e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.7870686973143341e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 13313350408.452072
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -13313350408.452072
Rp3_im_im_a1 0 x3_im_a1 1.7870686973143341e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 9.920909085382659e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 10664638889.687634
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -10664638889.687634
Rp4_im_im_a1 0 x4_im_a1 9.920909085382659e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0397845316890217e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 9364752661.767744
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -9364752661.767744
Rp5_im_im_a1 0 x5_im_a1 1.0397845316890217e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.614970786329894e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.1734740976176157e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.8239388175990517e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 2788593239.664649
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -2788593239.664649
Rp8_im_im_a1 0 x8_im_a1 1.8239388175990517e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.7307426909447697e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 5.648149313755243e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 9.357396943534815e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 4.751128291449827e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 2.6725012273098113e-09
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 2.129599511474993e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 1.8028261529603928e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.26531987908395377
Fd2_1 0 s2 V1 13.265993954197688
Gr1_2_1 0 s2 x1_a1 0 -3157195841688.2036
Gr2_re_2_1 0 s2 x2_re_a1 0 146067030997.513
Gr2_im_2_1 0 s2 x2_im_a1 0 18207956233.355717
Gr3_re_2_1 0 s2 x3_re_a1 0 -140844436725.38312
Gr3_im_2_1 0 s2 x3_im_a1 0 178642177871.87094
Gr4_re_2_1 0 s2 x4_re_a1 0 3156197498170.806
Gr4_im_2_1 0 s2 x4_im_a1 0 -22425844802973.746
Gr5_re_2_1 0 s2 x5_re_a1 0 -15383521969878.385
Gr5_im_2_1 0 s2 x5_im_a1 0 22536636870722.99
Gr6_2_1 0 s2 x6_a1 0 -134207506298719.19
Gr7_2_1 0 s2 x7_a1 0 141334923550677.7
Gr8_re_2_1 0 s2 x8_re_a1 0 3081780701724.31
Gr8_im_2_1 0 s2 x8_im_a1 0 -15576054393029.098
Gr9_2_1 0 s2 x9_a1 0 16192873968254.85
Gr10_2_1 0 s2 x10_a1 0 3182302992640.383
Gr11_2_1 0 s2 x11_a1 0 -277480041592.20734
Gr12_2_1 0 s2 x12_a1 0 -5387890301143.669
Gr13_2_1 0 s2 x13_a1 0 17038217135.613922
Gr14_2_1 0 s2 x14_a1 0 -96523502101.10683
Gr15_2_1 0 s2 x15_a1 0 122083984733.08673
Gd2_2 0 s2 p2 0 0.3572685512332297
Fd2_2 0 s2 V2 17.863427561661485
Gr1_2_2 0 s2 x1_a2 0 -4069404291485.952
Gr2_re_2_2 0 s2 x2_re_a2 0 190833194913.45715
Gr2_im_2_2 0 s2 x2_im_a2 0 58457895511.72241
Gr3_re_2_2 0 s2 x3_re_a2 0 -186393199585.91577
Gr3_im_2_2 0 s2 x3_im_a2 0 244087478347.45895
Gr4_re_2_2 0 s2 x4_re_a2 0 4447541279136.001
Gr4_im_2_2 0 s2 x4_im_a2 0 -29149831650427.934
Gr5_re_2_2 0 s2 x5_re_a2 0 -20171350887143.32
Gr5_im_2_2 0 s2 x5_im_a2 0 29108224297797.33
Gr6_2_2 0 s2 x6_a2 0 -175524370749381.4
Gr7_2_2 0 s2 x7_a2 0 183305468015546.62
Gr8_re_2_2 0 s2 x8_re_a2 0 4315779519956.055
Gr8_im_2_2 0 s2 x8_im_a2 0 -20189563212194.67
Gr9_2_2 0 s2 x9_a2 0 21700499817627.395
Gr10_2_2 0 s2 x10_a2 0 4476503383759.437
Gr11_2_2 0 s2 x11_a2 0 -403012220027.21844
Gr12_2_2 0 s2 x12_a2 0 -7489142967129.557
Gr13_2_2 0 s2 x13_a2 0 25868851615.80325
Gr14_2_2 0 s2 x14_a2 0 -145495136981.6011
Gr15_2_2 0 s2 x15_a2 0 182916698852.80823
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.193227495424505e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.2551589361398013e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 19132877134.554558
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -19132877134.554558
Rp2_im_im_a2 0 x2_im_a2 1.2551589361398013e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.7870686973143341e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 13313350408.452072
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -13313350408.452072
Rp3_im_im_a2 0 x3_im_a2 1.7870686973143341e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 9.920909085382659e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 10664638889.687634
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -10664638889.687634
Rp4_im_im_a2 0 x4_im_a2 9.920909085382659e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0397845316890217e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 9364752661.767744
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -9364752661.767744
Rp5_im_im_a2 0 x5_im_a2 1.0397845316890217e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.614970786329894e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.1734740976176157e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.8239388175990517e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 2788593239.664649
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -2788593239.664649
Rp8_im_im_a2 0 x8_im_a2 1.8239388175990517e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.7307426909447697e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 5.648149313755243e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 9.357396943534815e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 4.751128291449827e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 2.6725012273098113e-09
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 2.129599511474993e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 1.8028261529603928e-09
.ENDS s_equivalent
